US07544812B2
2,2-Dimethyl-3-(4-{2-[3-methyl-2-oxo-1-(4-trifluoromethyl-benzyl)-imidazolidin-4-yl]-ethoxy}-phenyl)-propionic acid methyl ester
To a solution of 3-(4-Hydroxy-phenyl)-2,2-dimethyl-propionic acid methyl ester (31 mg, 0.15 mmol) and Toluene-4-sulfonic acid 2-[3-methyl-2-oxo-1-(4-trifluoromethyl-benzyl)-imidazolidin-4-yl]-ethyl ester (75 mg, 0.16 mmol) in DMF (1 ml) is added Cs2CO3 (64 mg, 0.19 mmol), and the mixture heated at 60° C. for 15 hours. The mixture is cooled, diluted with water (25 ml) and extracted with ethyl acetate (2×25 ml). The combined organic extracts were washed with brine (25 ml), dried (Na2SO4), and concentrated to an oil. Purification by flash chromatography on a Biotage silica cartridge (gradient elution, 2:1 hexanes:ethyl acetate to 1:4 hexanes:ethyl acetate) produced an oil (69 mg, 94%).

reactant | 3-(4-Hydroxy-phenyl)-2,2-dimethyl-propionic acid methyl ester | 0.15 mmol, 31 mg | COC(C(CC1=CC=C(C=C1)O)(C)C)=O | C12H16O3
reactant | Toluene-4-sulfonic acid 2-[3-methyl-2-oxo-1-(4-trifluoromethyl-benzyl)-imidazolidin-4-yl]-ethyl ester | 0.16 mmol, 75 mg | CN1C(N(CC1CCOS(=O)(=O)C1=CC=C(C=C1)C)CC1=CC=C(C=C1)C(F)(F)F)=O | C21H23F3N2O4S
reactant | Cs2CO3 | 0.19 mmol, 64 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
solvent | water | 25 ml | O | H2O
product | 2,2-Dimethyl-3-(4-{2-[3-methyl-2-oxo-1-(4-trifluoromethyl-benzyl)-imidazolidin-4-yl]-ethoxy}-phenyl)-propionic acid methyl ester | 69 mg, 94% | COC(C(CC1=CC=C(C=C1)OCCC1N(C(N(C1)CC1=CC=C(C=C1)C(F)(F)F)=O)C)(C)C)=O | C26H31F3N2O4
